US08022062B2
4-(4-Methyl-benzoyl)-benzonitrile:
Suspend 4-cyanobenzoyl chloride (2.0 g, 12 mmol) in anhydrous toluene (30 mL). Add aluminum trichloride (2.4 g, 18 mmol) in three portions and stir the reaction mixture at ambient temperature overnight. Cool to 0° C., add carefully water and extract the mixture twice with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to give a solid. Suspend the solid in diethyl ether and filter to obtain the desired intermediate (1.30 g, 49%) that was used without any further purification. GC-MS m/z: 221 (Me).

reactant | 4-cyanobenzoyl chloride | 12 mmol, 2.0 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | aluminum trichloride | 18 mmol, 2.4 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | water | O | H2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(4-Methyl-benzoyl)-benzonitrile | 1.30 g, 49% | CC1=CC=C(C(=O)C2=CC=C(C#N)C=C2)C=C1 | C15H11NO
